US08530468B2
N-(4-Methoxybenzyl)-2-bromo-5-nitropyridin-4-amine
A solution of 4-methoxybenzylamine (0.756 g, 5.51 mmol) in acetonitrile (2 mL) was added to a mixture of 2-bromo-4-chloro-5-nitropyridine (1.19 g, 5.01 mmol) and triethylamine (0.768 mL, 5.51 mmol) in acetonitrile (8 mL). After stirring for 1.5 hours, the solution was diluted with ethyl acetate (100 mL) which was then washed successively with water and brine before being concentrated in vacuo to a light brown oil which solidified on standing to give the title compound (1.31 g, 3.87 mmol, 77%). 1H NMR (d6-DMSO, 400 MHz) δ 9.00 (br t, 1H, J=6.3 Hz), 8.80 (s, 1H), 7.35 (d, 2H, J=8.7 Hz), 7.10 (s, 1H), 6.95 (d, 2H, J=8.8 Hz), 4.60 (d, 2H, J=6.0 Hz), 3.70 (s, 3H). LCMS (1) Rt=2.13 min; m/z (ESI−) 336, 338 (M−H).

reactant | 4-methoxybenzylamine | 5.51 mmol, 0.756 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 2-bromo-4-chloro-5-nitropyridine | 5.01 mmol, 1.19 g | BrC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | triethylamine | 5.51 mmol, 0.768 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(4-Methoxybenzyl)-2-bromo-5-nitropyridin-4-amine | 3.87 mmol, 1.31 g, 77% | COC1=CC=C(CNC2=CC(=NC=C2[N+](=O)[O-])Br)C=C1 | C13H12BrN3O3
